US06743785B2
To a solution of 7-formylindole (30 g, 0.206 mol) in dimethylformamide (930 mL) was added cesium carbonate (148.2 g, 0.454 mol) and the mixture was stirred vigorously at room temperature for 30 min. Methyl 3-bromopropionate (51.6 g, 0.308 mol) was added and the reaction mixture was heated to 80° C. for 24 hours. The mixture was cooled to room temperature, diluted with ethyl acetate and filtered through a pad of Celite. The filtrate was washed with water and saturated aqueous sodium chloride, and the aqueous layers were back extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The crude product was passed through a short silica plug and concentrated under reduced pressure. Recrystallization of the crude product from chloroform and hexanes gave 4H-pyrrolo[3,2, 1-ij]quinoline-5-carboxylic acid methyl ester (17 g, 38.7% yield). Chromatography of the mother liquor gave additional 4H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid methyl ester (1.27 g, 2.9% yield) and 6H-Pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid methyl ester (0.51 g, 1.2% yield).

reactant | 7-formylindole | 0.206 mol, 30 g | C(=O)C=1C=CC=C2C=CNC12 | C9H7NO
reactant | cesium carbonate | 0.454 mol, 148.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Methyl 3-bromopropionate | 0.308 mol, 51.6 g | BrCCC(=O)OC | C4H7BrO2
solvent | dimethylformamide | 930 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4H-pyrrolo[3,2, 1-ij]quinoline-5-carboxylic acid methyl ester | 17 g, 38.7% yield | COC(=O)C=1CN2C3=C(C=CC=C3C1)C=C2 | C13H11NO2
